US05208250
5-[(3,5-Dimethoxy-4-hydroxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 99 using 3,5-dimethoxy-4-hydroxybenzaldehyde (5.8 g, 31 mmoles) and 1-methyl hydantoin (3.5 g, 30 mmoles). Recrystallization from ethanol gave the pure product (2.8 g),mp 194°-196° C.

reactant | 3,5-dimethoxy-4-hydroxybenzaldehyde | 31 mmoles, 5.8 g | COC=1C=C(C=O)C=C(C1O)OC | C9H10O4
reactant | 1-methyl hydantoin | 30 mmoles, 3.5 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
product | 5-[(3,5-Dimethoxy-4-hydroxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione | 2.8 g | COC=1C=C(C=C(C1O)OC)C=C1C(NC(N1C)=O)=O | C13H14N2O5
